US09326973B2
Neat potassium ethanethioate (571 mg, 5 mmol) was added to a solution of methyl 2,6-dibromohexanoate (1440 mg, 5 mmol) in DMSO (5 mL) and the mixture was stirred at rt overnight. The reaction was quenched with water and extracted with ether, washed with water, brine and dried (MgSO4). The crude isolate was purified by silica gel FCC (DCM) to afford methyl 2-(acetylthio)-6-bromohexanoate as a clear oil.

reactant | potassium ethanethioate | 5 mmol, 571 mg | C(C)([O-])=S.[K+]
reactant | methyl 2,6-dibromohexanoate | 5 mmol, 1440 mg | BrC(C(=O)OC)CCCCBr | C7H12Br2O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | methyl 2-(acetylthio)-6-bromohexanoate | C(C)(=O)SC(C(=O)OC)CCCCBr | C9H15BrO3S
